US08222243B2
1-[5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carbonyl]-piperidine-4-carbonitrile
Prepared from 5-(5-Trifluoromethyl-4-methyl-isoxazol-3-yl)-thiophene-2-carboxylic acid and 4-cyanopiperdine by the method described in Example 2 Method B reversing the order of addition such that solid acid chloride was added to a THF solution of triethylamine and piperdine derivative. The reaction mixture was evaporated to a solid, triturated and filtered with the aid of water, then washed with a 1 N aqueous hydrochloric acid solution followed by water. The solid was air dried then chromatographed on a short column of silica gel with EtOAc as eluant to afford product as a colorless solid (91 mg, 61%). 1H NMR (CDCl3) 1.91-2.06 (m, 4 H), 2.37 (d, J=1.3, 3 H), 2.97-3.03 (m, 1 H), 3.71-3.79 (m, 2 H), 3.90-3.98 (m, 2 H), 7.34 (d, J=4.0, 1 H), 7.47 (d, J=4.0, 1 H). 13C NMR 7.9, 26.5, 28.9, 43.6, 114.8, 118.7 (q, J=271), 120.8, 128.1, 129.5, 131.7, 139.4, 155.2 (q, J=40), 157.8, 162.9. 19F NMR −63.2. LC/MS 6.18 min, [M+1]+ 370.

reactant | 5-(5-Trifluoromethyl-4-methyl-isoxazol-3-yl)-thiophene-2-carboxylic acid | FC(C1=C(C(=NO1)C1=CC=C(S1)C(=O)O)C)(F)F | C10H6F3NO3S
reactant | 4-cyanopiperdine | C(#N)C1CCNCC1 | C6H10N2
reactant | THF | C1CCOC1 | C4H8O
reactant | piperdine | N1CCCCC1 | C5H11N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-[5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carbonyl]-piperidine-4-carbonitrile | 91 mg, 61% | CC=1C(=NOC1C(F)(F)F)C1=CC=C(S1)C(=O)N1CCC(CC1)C#N | C16H14F3N3O2S
